US05024912
5.0 g (16.8 m moles) of 5-(4-aminobenzylidene)-5H-dibenzo[a,d]cycloheptene synthesized in the same manner as in Example 1, using 5H-dibenzo[a,d]cycloheptene-5-on in place of 5H-dibenzo[a,d]cycloheptene-5-on of Example 1, 14.0 g (64.2 m moles) of p-iodotoluene, 7.0 g (50.6 m moles) of anhydrous potassium carbonate and 1.4 g of copper powder were added to 15 ml of nitrobenzene, and the mixture was stirred and refluxed for 5 hours. After the end of reaction, the reaction mixture was subjected to filtration by suction, and the filtrate was washed successively with an aqueous 3-5% sodium thiosulfate solution and an aqueous saturated NaCl solution. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed therefrom under reduced pressure. The residue was admixed with about 50 ml of n-hexane, and the precipitated crystal was recovered therefrom by filtration, and recrystallized from ethyl acetate-n-hexane solvent mixture, whereby 5.9 g of 5-[4-(di-p-tolylamino)benzylidene]-5H-dibenzo[a,d]cycloheptene was obtained (yield: 73.5%). The melting point was 158.5°-159.7° C., and elemental analysis as C36H31N was as follows:

reactant | 5-(4-aminobenzylidene)-5H-dibenzo[a,d]cycloheptene | 5.0 g | NC1=CC=C(C=C2C3=C(C=CC4=C2C=CC=C4)C=CC=C3)C=C1 | C22H17N
reactant | 5H-dibenzo[a,d]cycloheptene-5-on | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=O | C15H10O
reactant | p-iodotoluene | 14.0 g | IC1=CC=C(C=C1)C | C7H7I
reactant | potassium carbonate | 7.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | nitrobenzene | 15 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | copper | 1.4 g | [Cu] | Cu
product | 5-[4-(di-p-tolylamino)benzylidene]-5H-dibenzo[a,d]cycloheptene | 5.9 g, yield: 73.5% | C1(=CC=C(C=C1)N(C1=CC=C(C=C2C3=C(C=CC4=C2C=CC=C4)C=CC=C3)C=C1)C1=CC=C(C=C1)C)C | C36H29N
